US09193719B2
3-Hydroxy-2,2-dimethylpropanoic acid (15.00 g, 127.0 mmol) was dissolved in a solution of MeOH (200 mL) and conc. H2SO4 (13.5 g, 254 mmol) and stirred at reflux for 16 h. The reaction mixture was concentrated in vacuo, diluted with EtOAc (100 mL), washed with water (2×50 mL), sat. NaHCO3 (aq) (50 mL), water (50 mL), brine (1×50 mL), and dried (Na2SO4). Organic solvent was removed in vacuo to afford methyl 3-hydroxy-2,2-dimethylpropanoate (6.4 g, 57.2%) as a colorless liquid. 1H NMR (400 MHz, DMSO-d6): δ 3.71 (s, 3H), 3.56 (s, 2H), 2.05-2.04 (m, 1H), 1.19 (s, 6H).

reactant | 3-Hydroxy-2,2-dimethylpropanoic acid | 127.0 mmol, 15.00 g | OCC(C(=O)O)(C)C | C5H10O3
reactant | H2SO4 | 254 mmol, 13.5 g | OS(=O)(=O)O | H2O4S
reactant | MeOH | 200 mL | CO | CH4O
product | methyl 3-hydroxy-2,2-dimethylpropanoate | 6.4 g, 57.2% | OCC(C(=O)OC)(C)C | C6H12O3
